US08541429B2
8-(cyclopentylamino)-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide [B73-X00-M00(C01)-D03]
A suspension of potassium 8-(cyclopentylamino)-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate (180 mg, 0.51 mmol) in anhydrous dimethylformamide (3.0 mL) and anhydrous tetrahydrofuran (3.0 mL) was treated with N-ethyl-N,N-diisopropylamine (0.175 mL, 2 eq.) and N-ethyl-N′,N′-diisopropyl carbodiimide hydrochloride (EDCI) (195 mg, 2 eq). The mixture was then cooled to 0° C. and treated with ammonium 1H-1,2,3-benzotriazol-1-ate (137 mg, 2 eq). After 5 minutes the reaction was warmed to room temperature and kept at this temperature overnight. The reaction was diluted with water and the resulting precipitate was collected by filtration to afford the title compound (143 mg, 90% yield),

reactant | potassium 8-(cyclopentylamino)-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate | 0.51 mmol, 180 mg | C1(CCCC1)NC1=NC=2C3=C(CCC2C=N1)C(=NN3C)C(=O)[O-].[K+]
reactant | N-ethyl-N,N-diisopropylamine | 0.175 mL, 2 eq. | C(C)N(C(C)C)C(C)C | C8H19N
reactant | ammonium 1H-1,2,3-benzotriazol-1-ate | 137 mg, 2 eq | N1(N=NC2=C1C=CC=C2)C(=O)[O-].[NH4+]
solvent | dimethylformamide | 3.0 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 3.0 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 8-(cyclopentylamino)-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide | 143 mg, 90% yield | C1(CCCC1)NC1=NC=2C3=C(CCC2C=N1)C(=NN3C)C(=O)N | C16H20N6O
